* source INPUT-BUFFER
R_R_VREF_TOP         VREF VCC  47k TC=0,0 
C_C_INPUT_COUPLING         VIN VIN_BIASED  100n  TC=0,0 
R_R_VREF_BOTTOM         0 VREF  47k TC=0,0 
R_R_FEEDBACK         OUT_BIASED N00484  33k TC=0,0 
R_R_GAIN_SET         N00484 N05183  10k TC=0,0 
C_C_OUTPUT_COUPLING         OUT_BIASED N00759  4.7u  TC=0,0 
C_C_LF_SHAPING         0 N05183  4.7u  TC=0,0 
C_C_VREF_FILTER         0 VREF  10u  TC=0,0 
V_VCC         VCC 0 9Vdc
R_R_OUT_BLEED         N00759 0  100k TC=0,0 
R_R_IN         VREF VIN_BIASED  1MEG TC=0,0 
X_U1         VIN_BIASED N00484 VCC 0 OUT_BIASED TL07XH_TL08XH
V_V1         VIN 0  AC 1
+SIN 0 100mV 1000 0 0 0
R_R_OUT_R         N00759 N06210  330 TC=0,0 
R_R_LOAD_R         0 N06210  10k TC=0,0 
R_R_OUT_L         N00759 N06318  330 TC=0,0 
R_R_LOAD_R1         0 N06318  10k TC=0,0 
